US08017604B2
Step 1: 2-Methyl-2H-pyrazole-3,4-dicarboxylic acid diethyl ester
Under an atmosphere of argon, methylhydrazine (1.15 g, 25 mmol) and HCl (36.5% in water, 2.5 ml) were added to a solution of 2-dimethylaminomethylene-3-oxo-succinic acid diethyl ester (6.07 g, 25 mmol, obtained by the method of Hanzlowsky et al., J. Heterocyclic Chem. 2003, 40(3), 487-498) in ethanol (200 ml). The mixture was heated to 60° C. until HPLC analysis indicated the disappearance of the starting material (2 h). The solvent was evaporated, and the residue was taken up in dichloromethane and washed (water). The organic layer was dried (Na2SO4), the solvent was evaporated and the title compound (2.06 mg, 36%) was isolated from the mixture by column chromatography (silica gel, heptane:ethyl acetate=100:0-60:40). (The regioisomeric 1-methyl-1H-pyrazole-3,4-dicarboxylic acid diethyl ester can also be isolated, and can be distinguished from the desired product by NOE-1H-NMR.) MS (m/e)=227.2 [M+H+].

reactant | methylhydrazine | 25 mmol, 1.15 g | CNN | CH6N2
reactant | HCl | 2.5 ml | Cl | ClH
reactant | 2-dimethylaminomethylene-3-oxo-succinic acid diethyl ester | C(C)OC(C(C(C(=O)OCC)=O)=CN(C)C)=O | C11H17NO5
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-Methyl-2H-pyrazole-3,4-dicarboxylic acid diethyl ester | 2.06 mg, 36% | C(C)OC(=O)C=1N(N=CC1C(=O)OCC)C | C10H14N2O4
